US09302985B2
To a solution of 4-bromo-N-isobutyl-benzenesulfonamide (0.25 g, 856 μmol) in anhydrous dimethylacetamide (5 mL) was added NaH (60% dispersion in mineral oil, 37.7 mg, 942 μmol) and the mixture was stirred at room temperature for 15 minutes. 4-Fluorobenzyl bromide (117 μL, 942 μmol) was added and reaction heated at 90° C. for 2 hours. The reaction was left to cool to room temperature, water added and then extracted with DCM, filtered through a phase separator, concentrated and purified by silica gel column chromatography (0-25% DCM in cyclohexane) to give 4-bromo-N-(4-fluoro-benzyl)-N-isobutyl-benzenesulfonamide (267 mg, 78%) 1H NMR (300 MHz, CDCl3): δ 7.65-7.66 (m, 4 H), 7.23 (m, 2 H), 6.99 (t, 2 H), 4.27 (s, 2 H), 2.89 (d, 2 H), 1.64 (dt, 1 H), 0.74 (d, 6 H).

reactant | 4-bromo-N-isobutyl-benzenesulfonamide | 856 μmol, 0.25 g | BrC1=CC=C(C=C1)S(=O)(=O)NCC(C)C | C10H14BrNO2S
reactant | NaH | 942 μmol, 37.7 mg | [H-].[Na+]
reactant | 4-Fluorobenzyl bromide | 942 μmol, 117 μL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | water | O | H2O
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
product | 4-bromo-N-(4-fluoro-benzyl)-N-isobutyl-benzenesulfonamide | 267 mg, 78% | BrC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)CC1=CC=C(C=C1)F | C17H19BrFNO2S
